US05426111
Step 1: 4-methoxy-4-(3-hydroxypropyl)tetrahydropyran.
The desired compound is prepared by catalytic hydrogenolysis of 4-methoxy-4-(3-hydroxy-trans-prop-1-enyl) tetrahydropyran, prepared as in Example 1, steps 1-4, using palladium on calcium carbonate poisoned with lead according to the method of U.S. Pat. No. 5,268,379, Example 5.

reactant | 4-methoxy-4-(3-hydroxy-trans-prop-1-enyl) tetrahydropyran | COC1(CCOCC1)\C=C\CO | C9H16O3
catalyst | palladium on calcium carbonate | [Pd] | Pd
product | 4-methoxy-4-(3-hydroxypropyl)tetrahydropyran | COC1(CCOCC1)CCCO | C9H18O3
